US07642264B2
2-(3-Bromo-phenyl)-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine (example A.6) (0.50 g, 1.45 mmol) and commercially available 3-bromo-benzene-boronic acid (0.38 g, 1.89 mmol) according to the general procedure IVb. Obtained as a white solid (0.31 g, 46%). MS (EI) 464.0, 466.0 [(M)+]; mp 111° C.

reactant | 2-chloro-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | 1.45 mmol, 0.50 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)F)C(F)(F)F | C12H4ClF7N2
reactant | 3-bromo-benzene-boronic acid | 1.89 mmol, 0.38 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(3-fluoro-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)F)C(F)(F)F | C18H8BrF7N2
